US06719520B2
3-(Indan-5-ylamino)-4-[3-[(3-fluorophenylaminocarbonyl)amino]phenyl]-1H-pyrrole-2,5-dione
3-(Indan-5-ylamino)-4-(3-aminophenyl)-1H-pyrrole-2,5-dione (Table A, Example A599; 0.08 g, 0.3 mmol) in dichloromethane (10 mL) was was treated with 3-fluorophenyl isocyanate (0.038mg, 0.3 mmol). The mixture was shaken on an orbital shaker for 72 hours. Saturated aqueous sodium bicarbonate (5 mL) was added, shaking continued for 5 minutes and the organic layer transferred directly onto a column of silica gel. Elution with dichloromethane gave the product as a yellow solid.

reactant | 3-(Indan-5-ylamino)-4-(3-aminophenyl)-1H-pyrrole-2,5-dione | 0.3 mmol, 0.08 g | C1CCC2=CC(=CC=C12)NC=1C(NC(C1C1=CC(=CC=C1)N)=O)=O | C19H17N3O2
reactant | 3-fluorophenyl isocyanate | 0.3 mmol, 0.038mg | FC=1C=C(C=CC1)N=C=O | C7H4FNO
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-(Indan-5-ylamino)-4-[3-[(3-fluorophenylaminocarbonyl)amino]phenyl]-1H-pyrrole-2,5-dione | C1CCC2=CC(=CC=C12)NC=1C(NC(C1C1=CC(=CC=C1)NC(=O)NC1=CC(=CC=C1)F)=O)=O | C26H21FN4O3
